US03989737
3-Acetoxy-6-ethoxycarbonyl-2-(N-ethoxypropionimidoyl)-2-cyclohexene-1-one
Sodium salt of 2-(1-ethoxyaminopropylidene)-4-ethoxycarbonyl-5,5-dimethylcyclohexane-1,3-dione (3.1 g) was suspended in 50 ml of acetone and acetylchloride (0.8 g) was added to it at room temperature. After stirring for 3 hours, the reaction mixture was poured into ice-water and extracted with chloroform. The extract was washed with one normal sodium hydroxide and dried over magnesium sulfate. The solvent was removed is vacuo and the desired product was obtained as an oily substance.

reactant | Sodium | [Na] | Na
reactant | 2-(1-ethoxyaminopropylidene)-4-ethoxycarbonyl-5,5-dimethylcyclohexane-1,3-dione | 3.1 g | C(C)ONC(CC)=C1C(CC(C(C1=O)C(=O)OCC)(C)C)=O | C16H25NO5
reactant | acetylchloride | 0.8 g | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-Acetoxy-6-ethoxycarbonyl-2-(N-ethoxypropionimidoyl)-2-cyclohexene-1-one | C(C)(=O)OC1=C(C(C(CC1)C(=O)OCC)=O)C(CC)=NOCC | C16H23NO6
